US09340547B2
a) 4-Methyl-N-o-tolyl-1H-pyrrole-2-carboxamide
A solution of 2,2,2-trichloro-1-(4-methyl-1H-pyrrol-2-yl)ethanone (2 g, 8.8 mmol) in a mixture of o-toluidine (1.76 mL, 16.5 mmol) and triethylamine (2.1 mL, 15.07 mmol) under argon was heated to 80° C. with stirring during 75 h. Afterwards, the reaction mixture was concentrated to dryness giving a residue that was treated with hexane and the resulting solid filtered to afford 848 mg of the title compound (45% yield).

reactant | 2,2,2-trichloro-1-(4-methyl-1H-pyrrol-2-yl)ethanone | 8.8 mmol, 2 g | ClC(C(=O)C=1NC=C(C1)C)(Cl)Cl | C7H6Cl3NO
reactant | o-toluidine | 16.5 mmol, 1.76 mL | NC=1C(=CC=CC1)C | C7H9N
reactant | triethylamine | 15.07 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | hexane | CCCCCC | C6H14
product | 4-Methyl-N-o-tolyl-1H-pyrrole-2-carboxamide | 848 mg, 45% yield | CC=1C=C(NC1)C(=O)NC1=C(C=CC=C1)C | C13H14N2O
